US06613786B2
2-Amino-4,6-dichloroanisole was prepared by same method as described in Step 2 of Preparation 2c except using 2-nitro-4,6-dichloroanisole (13.32 g) and 10%Pt(S)/C (1.33 g). Workup gave crude 2-amino-4,6-dichloroanisole (11 g, 95%) which was used in the next step without purification. 1H NMR (300 MHz, CDCl3) δ6.73 (d, J=2.4 Hz, 1 H), 6.62 (d, J=2.4 Hz, 1 H), 3.82 (s, 3 H).

reactant | 2-nitro-4,6-dichloroanisole | 13.32 g | [N+](=O)([O-])C1=C(C(=CC(=C1)Cl)Cl)OC | C7H5Cl2NO3
catalyst | Pt(S)/C | 1.33 g | [Pt] | Pt
product | 2-amino-4,6-dichloroanisole | 11 g, 95% | NC1=C(C(=CC(=C1)Cl)Cl)OC | C7H7Cl2NO
